US04252818
Step E: Ethyl 7-Hydroxy-8-propyl-4-oxo-4H-1-benzopyran-2-carboxylate
To a solution of sodium ethoxide (from 19 gm. of sodium and 260 ml of absolute ethanol) under nitrogen atmosphere, add dropwise a solution of 40 gm of 2,4-dihydroxy-3-propylacetophenone and 68 gm of diethyloxalate in 55 ml of absolute ethanol and 55 ml of absolute ether. Heat under reflux for 3.5 hours. Cool to room temperature and pour the mixture into 500 ml of 5% aqueous hydrochloric acid. Extract the mixture twice with ether. Wash the combined organic fractions with water, dry over sodium sulfate and strip to a residue. Reflux the residue for 30 minutes in 150 ml absolute ethanol containing 2.5 ml of concentrated hydrochloric acid. Evaporate most of the ethanol and partition the residue between water and ethyl acetate. Wash the organic fraction with water, aqueous sodium bicarbonate solution and again with water. Dry over sodium sulfate and strip to a residue. Crystallize the residue from ethyl acetate-hexane to obtain a first crop (mp 155°-162° C.). Strip the mother liquors to dryness and chromatograph the residue over silica gel, eluting with a mixture of ethylacetate-hexane (1:1). Crystallize the resulting product from ethyl acetate to obtain a second crop. (mp 165°-167° C. lit. 166°-167° C.).

reactant | sodium ethoxide | 260 ml, 19 gm | [O-]CC.[Na+]
reactant | 2,4-dihydroxy-3-propylacetophenone | 40 gm | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | diethyloxalate | 68 gm | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | ethanol | 55 ml | C(C)O | C2H6O
solvent | ether | 55 ml | CCOCC | C4H10O
product | Ethyl 7-Hydroxy-8-propyl-4-oxo-4H-1-benzopyran-2-carboxylate | OC1=C(C2=C(C(C=C(O2)C(=O)OCC)=O)C=C1)CCC | C15H16O5
